US07371773B2
Production of (Z)-2-(3,4-dimethoxy-phenyl)-3-(4-nitro-phenyl)-acrylonitrile (Compound 19)
4-Nitrobenzaldehyde (760 mg) and 3,4-dimethoxybenzyl cyanide (890 mg) were subjected to condensation in accordance with process B of (production process 2), to thereby produce the target product (1.31 g, yield: 85%).

reactant | 4-Nitrobenzaldehyde | 760 mg | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 3,4-dimethoxybenzyl cyanide | 890 mg | COC=1C=C(CC#N)C=CC1OC | C10H11NO2
product | (Z)-2-(3,4-dimethoxy-phenyl)-3-(4-nitro-phenyl)-acrylonitrile | 1.31 g, yield: 85% | COC=1C=C(C=CC1OC)/C(/C#N)=C/C1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
